US07112553B1
Methyl 4-acetamido-3-nitrophenylacetate (40 g, 0.159 mol)) was dissolved in methanol (400 ml) and hydrogenated at 5 bar over a 5% palladium on carbon catalyst. The catalyst was removed by filtration and the filtrate evaporated in vacuo to give methyl 4-acetamido-3-aminophenylacetate.

reactant | Methyl 4-acetamido-3-nitrophenylacetate | 0.159 mol, 40 g | C(C)(=O)NC1=C(C=C(C=C1)CC(=O)OC)[N+](=O)[O-] | C11H12N2O5
solvent | methanol | 400 ml | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | methyl 4-acetamido-3-aminophenylacetate | C(C)(=O)NC1=C(C=C(C=C1)CC(=O)OC)N | C11H14N2O3
